US07659401B2
Step 1: 3-Nitro-pyridin-4-ol
4-Methoxy-3-nitropyridine (25.0 g, 162 mmol) in 220 ml conc. hydrobromic acid (48%) was refluxed at 100° C. for 16 hrs. The reaction mixture was cooled, poured into ice water and neutralized with 155 ml conc. NaOH (32%). The suspension was stirred for 10 min. at 5° C. and filtered. The solid was washed with water and dried at 50° C. and <30 mbar for 1 hour. The desired product was obtained as a light yellow solid (20.2 g, 89%).

reactant | 4-Methoxy-3-nitropyridine | 162 mmol, 25.0 g | COC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O3
reactant | NaOH | 155 ml | [OH-].[Na+]
solvent | hydrobromic acid | 220 ml | Br | BrH
product | 3-Nitro-pyridin-4-ol | [N+](=O)([O-])C=1C=NC=CC1O | C5H4N2O3
